* FILE: MMI_NAND2C.sp


* SPICE netlist for "MMI_NAND2C" (generated by MMI_SUE4.2.16)

.SUBCKT MMI_NAND2C in0 in1 out 
M_0 out in0 net_1 gnd n W='1.54*1u' L=ln_min  
M_1_1 out in0 net_2 gnd n W='1.54*1u' L=ln_min  
M_2_1 net_2 in1 gnd gnd n W='1.54*1u' L=ln_min  
M_3_1 net_1 in1 gnd gnd n W='1.54*1u' L=ln_min  
M_4_1 out in0 vdd vdd p W='3.08*1u' L=lp_min  
M_5_1 out in1 vdd vdd p W='3.08*1u' L=lp_min  
.ENDS	$ MMI_NAND2C

